US08383637B2
2-Nitro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde
A mixture of Pd2(dba)3 (0.0007 mol) and tricyclohexylphosphine (0.0029 mol) in dry dioxane (200 mL) was stirred under N2 for 30 min, and then 2-nitro-4-bromobenzaldehyde (0.040 mol), pinacol diborane (4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane) (0.044 mol), and potassium acetate (0.060 mol) were added and the reaction mixture was stirred for 16 hours under N2 at 80° C. The mixture was cooled to room temperature and the solvent was evaporated. The obtained residue was washed with H2O and extracted with CH2Cl2. The organic layer was separated, dried (MgSO4), filtered off and the solvent was evaporated. The residue was purified by short column chromatography over silica gel (eluent: 100% CH2Cl2). The purest product fractions were collected and the solvent was evaporated. The residue was stirred in hexane, and then the resulting precipitate was filtered off and dried to yield the title compound as a residue.

reactant | tricyclohexylphosphine | 0.0029 mol | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 2-nitro-4-bromobenzaldehyde | 0.040 mol | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)Br | C7H4BrNO3
reactant | pinacol diborane | 0.044 mol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.060 mol | C(C)(=O)[O-].[K+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.0007 mol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Nitro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H16BNO5
